US06794400B2
4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(4-methoxybenzylidene)thiosemicarbazide
A mixture of N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide (100 mg, 0.56 mmol), p-anisaldehyde (69 μL, 0.56 mmol) and glacial acetic acid (31 μl) in ethanol (5 mL) was stirred at room temperature for 1 h. The resultant precipitate was collected by filtration and isolated as a white solid (100 mg, 59%). 1H NMR (CDCl3): 9.05 (s, 1H), 7.72 (s, 1H), 7.57 (d, J=8.7 Hz, 2H), 7.44 (d, J=6.9 Hz, 1H), 6.93 (d, J=8.7 Hz, 2H), 6.23-6.14 (m, 2H), 4.30-4.26 (m, 1H), 3.85 (s, 3H), 3.06 (s, 1H), 2.96 (s, 1H), 1.94-1.86 (m, 1H), 1.67 (d, J=9.0 Hz, 1H), 1.51 (d, J=9.0 Hz, 1H), 1.45-1.40 (m, 1H).

reactant | N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide | 0.56 mmol, 100 mg | C12C(CC(C=C1)C2)NC(=S)NN | C8H13N3S
reactant | p-anisaldehyde | 0.56 mmol, 69 μL | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | acetic acid | 31 μl | C(C)(=O)O | C2H4O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(4-methoxybenzylidene)thiosemicarbazide | 100 mg, 59% | C12C(CC(C=C1)C2)NC(NN=CC2=CC=C(C=C2)OC)=S | C16H19N3OS
